US05830915
D-Leucine benzyl ester:
D-leucine (10 g, 76.23 mmol) is suspended in benzyl alcohol (157 mL) and warmed to 55° C. HCl gas is bubbled through the mixture and the reaction becomes quite viscous. 150 mL of benzene is then added with vigorous stirring. After 30 minutes of bubbling gas through with heating the mixture begins to thin and stirring is achieved more easily. The reaction stirs further at 55° C. for one hour until the solution becomes homogeneous. Flow of HCl is ceased and the reaction is closed off and allowed to stir further at 55° C. for 30 minutes. The reaction is allowed to cool to room temperature and is diluted with ethyl acetate. The product is extracted into 1M HCl (3×) and the organics are discarded. The aqueous washings are combined taken to pH 8 with 50% aqueous NaOH. The amine is extracted several times with ethyl acetate. The organics are dried over sodium sulfate and evaporated. Ether is added to the oil and HCl is bubbled through to precipitate D-leucine benzyl ester as the hydrochloride salt.

reactant | D-leucine | 76.23 mmol, 10 g | N[C@H](CC(C)C)C(=O)O | C6H13NO2
reactant | benzyl alcohol | 157 mL | C(C1=CC=CC=C1)O | C7H8O
product | D-Leucine benzyl ester | C(C1=CC=CC=C1)OC([C@H](N)CC(C)C)=O | C13H19NO2
